US08629157B2
Synthesis of (2S,4R)-4-hydroxy-1-pyrimidin-4-yl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
10% Pd/C (40 mg) is added to a solution of (2S,4R)-1-(2-chloro-pyrimidin-4-yl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (100 mg, 0.273 mmol) in ethanol (2 mL). The reaction is stirred under hydrogen atmosphere overnight at room temperature. The reaction is filtered through Celite® and the filtrate is concentrated. Purification by pre-HPLC eluting with 4-45% acetonitrile/water provides the title compound. ESI m/z 332 [M+H+].

reactant | (2S,4R)-1-(2-chloro-pyrimidin-4-yl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | 0.273 mmol, 100 mg | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)C1=NC(=NC=C1)Cl | C16H20ClN5O3
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | (2S,4R)-4-hydroxy-1-pyrimidin-4-yl-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)C1=NC=NC=C1 | C16H21N5O3
